US09056859B2
A solution of (3-methoxy-4-nitrophenyl)acetic acid (2.08 g, 9.86 mmol) in 100 mL of EtOAc was added 600 mg of Pd/C under Ar, and the mixture was stirred at ambient temperature under H2 atmosphere overnight. The reaction mixture was filtered and the filtrate was concentrated to give (4-amino-3-methoxyphenyl)acetic acid.

reactant | (3-methoxy-4-nitrophenyl)acetic acid | 9.86 mmol, 2.08 g | COC=1C=C(C=CC1[N+](=O)[O-])CC(=O)O | C9H9NO5
solvent | EtOAc | 100 mL | CCOC(=O)C | C4H8O2
catalyst | Pd/C | 600 mg | [Pd] | Pd
product | (4-amino-3-methoxyphenyl)acetic acid | NC1=C(C=C(C=C1)CC(=O)O)OC | C9H11NO3
